US06716851B2
4-(2-Chloro-5-methoxyanilino)-2-(2,6-dichloro-4-pyridinyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-chloro-2-(2,6-dichloro-4-pyridinyl)-6-trifluoromethyl-pyrimidine (52 mg, 0.159 mmol) and 2-chloro-5-methoxyaniline (40 mg, 0.255 mmol) similar to Example 160 and was isolated as a yellow crystalline solid (13 mg, 0.029 mmol, 18%). 1H NMR (CDCl3): 8.27 (s, 2H), 7.76 (s, br, 1H), 7.40 (s, 1H), 7.38 (s, 1H), 7.02 (s, 1H), 6.77 (m, 1H), 3.90 (s, 3H).

reactant | 4-chloro-2-(2,6-dichloro-4-pyridinyl)-6-trifluoromethyl-pyrimidine | 0.159 mmol, 52 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC(=NC(=C1)Cl)Cl | C10H3Cl3F3N3
reactant | 2-chloro-5-methoxyaniline | 0.255 mmol, 40 mg | ClC1=C(N)C=C(C=C1)OC | C7H8ClNO
product | 4-(2-Chloro-5-methoxyanilino)-2-(2,6-dichloro-4-pyridinyl)-6-trifluoromethyl-pyrimidine | ClC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC(=NC(=C2)Cl)Cl)C=C(C=C1)OC | C17H10Cl3F3N4O
